US05607691
4-Chlorobutyryl chloride (12.69 g, 90 mmol) was mixed with paraldehyde (3.964 g, 30 mmol) and heated at 85° C. for 90 minutes. Additional paraldehyde (1.35 g) was added and the reaction mixture was stirred at 85° C. for an additional hour. The reaction mixture as cooled to room temperature, diluted with dichloromethane (100 ml) and stirred with saturated aqueous sodium bicarbonate (50 ml) at room temperature for 10 minutes. The dichloromethane layer was separated, dried over sodium sulfate and concentrated in vacuo to yield Cl(CH2)3CO2CHClCH3 which was vacuum distilled (55°-58° C. at 0.1 mm, 9.65 g, 58.6% yield) whose structure was confirmed by NMR.

reactant | 4-Chlorobutyryl chloride | 90 mmol, 12.69 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | paraldehyde | 30 mmol, 3.964 g | CC1OC(OC(O1)C)C | C6H12O3
reactant | paraldehyde | 1.35 g | CC1OC(OC(O1)C)C | C6H12O3
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Cl(CH2)3CO2CHClCH3 | 58.6% yield | ClCCCC(=O)OC(Cl)C | C6H10Cl2O2
